US05387585
2.1. 6.0 g of ethyl 5,6-dihydro-6-thioxo-4H-imidazo-[1,5-a][1,4]benzodiazepine-3-carboxylate in 40 ml of amino-acetaldehyde dimethyl acetal are stirred at 85° C. for 48 h. The mixture is diluted with 150 ml of water and extracted four times with ethyl acetate. The organic extracts are washed with saturated aqueous sodium chloride solution and evaporated in a vacuum. The residue is chromatographed over silica gel. Elution is carried out with dichloromethane/ethanol 99:1, 98:2 and 97:3. The crude eluate is recrystallized from ethyl acetate/diisopropyl ether. There are obtained 4.3 g of pure ethyl 6-[(2,2-dimethoxy-ethyl)amino]-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylate of m.p. 121°-122° C.

reactant | ethyl 5,6-dihydro-6-thioxo-4H-imidazo-[1,5-a][1,4]benzodiazepine-3-carboxylate | 6.0 g | S=C1NCC=2N(C3=C1C=CC=C3)C=NC2C(=O)OCC | C14H13N3O2S
reactant | amino-acetaldehyde dimethyl acetal | 40 ml | COC(CN)OC | C4H11NO2
solvent | water | 150 ml | O | H2O
product | ethyl 6-[(2,2-dimethoxy-ethyl)amino]-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylate | 4.3 g | COC(CNC1=NCC=2N(C3=C1C=CC=C3)C=NC2C(=O)OCC)OC | C18H22N4O4
